US07432258B2
Several smaller batches of ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate were combined. A solution of ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (4.1 g, 19.0 mmol) dissolved in 30 mL of anhydrous tetrahydrofuran was added drop-wise to a mixture of sodium hydride (60% by weight in mineral oil, 0.8 g, 20 mmol) suspended in 60 mL of anhydrous tetrahydrofuran under argon. The mixture was allowed to stir at room temperature for 10 minutes before t-butyl-2-bromoacetate (3.4 mL, 23 mmol) was added to the mixture and stirred vigorously for 2 hours. HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) chromatogram indicated that all of the starting material (Rt=5.5 min) was consumed and only a single new product had formed (Rt=7.7 min). The reaction was quenched by adding 8 mL of a 4 M solution of hydrochloric acid in dioxane. After allowing the mixture to stir for one hour, all of the volatiles were removed by rotary evaporation to give ethyl 4-{2-[(1,1-dimethylethyl)oxy]-2-oxoethyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (6.14 g, 18.0 mmol, 96%). MS (ES) m/e 280 [M−t-butyl C4H9]+.

reactant | ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | O=C1COC2=C(N1)C=C(C=C2)C(=O)OCC | C11H11NO4
reactant | ethyl 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 19.0 mmol, 4.1 g | O=C1COC2=C(N1)C=C(C=C2)C(=O)OCC | C11H11NO4
reactant | sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | t-butyl-2-bromoacetate | 23 mmol, 3.4 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | CH3CN H2O | CC#N.O
product | ethyl 4-{2-[(1,1-dimethylethyl)oxy]-2-oxoethyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 18.0 mmol, 6.14 g, 96% | CC(C)(C)OC(CN1C(COC2=C1C=C(C=C2)C(=O)OCC)=O)=O | C17H21NO6
